* C:\Users\vvuon\Documents\LTspice_Projects\RPC_Remote_Power_Controller_and_High_PWR_Current_Source\Hybrid_RPC.asc
* Generated by LTspice 26.0.2 for Windows.
R3 P001 GATE_DRIVE 100
RSNS VBUS N001 10m
VBUS VBUS 0 {Vbus}
R17 OUT 0 20k
C2 OUT 0 1.8µ
S1 0 N026 LOAD_CMD 0 SW
VLOAD_CMD LOAD_CMD 0 PULSE(0 5 5 10u 10u 1 10)
ROUT OUT N014 10µ
R20 N001 GATE_DRIVE 10k
M3 OUT P001 N001 N001 SQJ469EP
RCONVERGE N014 0 100G
Lcable1 N014 N015 {Lcable}
Lcable2 0 N029 {Lcable}
Lcable3 N015 N018 {Lcable}
R21 N018 N022 3k
Lcable4 N022 N027 {Lcable}
R22 N027 N029 2
Lcable5 N015 N021 {Lcable}
Lcable6 N028 N029 {Lcable}
C3 N021 N028 {Cload}
Lcable7 N015 N016 {Lcable}
R18 N016 N026 1
R4 P002 GATE_DRIVE 100
M1 OUT P002 N001 N001 SQJ469EP
R5 P003 GATE_DRIVE 100
M2 OUT P003 N001 N001 SQJ469EP
R2 N001 N002 1k
R6 VBUS N008 2k
C1 N003 N002 0.012µ
R7 N008 VBUS-10V 121k
C4 N008 VBUS-10V 0.68µ
C5 OUT N004 0.056µ
X§U1 N008 N002 N001 VBUS-10V N003 level3a Avol=1Meg GBW=10G Slew=10Meg Ilimit=50m Rail=0 Vos=0 Phimargin=60 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R9 N001 N004 470k
D1 N004 N005 1N914
D2 N003 N005 1N914
Q1 N007 N005 GATE_DRIVE 0 2N2222
R10 N001 N007 10k
Q2 GATE_DRIVE N007 N001 0 2N2907
R11 N005 GATE_DRIVE 49.9k
R12 GATE_DRIVE N003 100
D3 VBUS-10V VBUS BZX84C10L
R8 VBUS-10V N011 100
Q3 N011 N013 0 0 2N2222
V1 N012 0 PULSE(0 5 1 1u 1u 100)
R13 N013 N012 1k
Q4 N024 VBUS-10V P004 0 2N2907
D4 VBUS-10V N009 1N750
C6 N024 0 10µ
Q5 N002 N023 N025 0 2N2222
Q6 N017 N020 N025 0 2N2222
R16 N025 0 10k
D5 0 N025 1N750
D6 0 N019 1N750
R27 VBUS N017 1k
R28 N020 N019 1k
R30 N024 0 100k
C7 N019 0 0.1µ
R26 N019 0 100k
R24 N006 VBUS-10V 10k
R25 VBUS N006 10k
Q7 N010 N006 VBUS 0 2N2907
R15 N024 N023 1k
R14 N003 N009 499
R1 N009 P004 40k
R19 N010 N019 1k
.model D D
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.mos
.param RSNS=20m
.param RSEL = 18
.param RGAIN = 200
.param RIN_INTEG = 10k
.model SW SW(Ron=10u, Roff=10G, Vt=0.5, Vh=-0.4)
.tran 0 10 0
* .ac dec 1k 100 10Meg
.param Gfs = 4
.param Cgs = 6000p
.param Cgd = 10p
.opt noopiter
.opt abstol=1E-4 reltol=1E-4
.step paramCload list 50u 10m
.step param Lcable list 500n 1m
.step temp list -55 25 155
* .param Cload=10u\n.param Lcable = 1p
.step param Vbus list 24 30 34
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\vvuon\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp3.asy)
.lib UniversalOpAmp3a.lib
.backanno
.end
