.subckt UC1825 INV NI EA_OUT CLK RT CT RAMP SS ILIM_SD GRND OUT_A PWR_GND VC OUT_B VCC VREF_5.1V
X§U1 N020 GRND ADR5043 ;§pnba 1)2
Q3 N017 N017 N020 0 NPN
Q4 N005 N017 RT 0 NPN
Q5 N005 N005 VCC 0 PNP
Q6 VCC N003 N009 0 NPN
Q7 N003 N009 N017 0 NPN
R2 N009 N017 10k
R3 VCC N003 10k
R4 GRND 0 10G
Q1 CT N005 VCC 0 PNP
X§U2 N035 N020 VREF_5.1V GRND N026 LTC6752 ;§pnba +In)-In)VCC)VEE)Q
Q2 CT N034 N037 0 NPN
R5 N026 N034 2k
R6 CT N035 10k
R7 N035 N026 45k
R8 N037 GRND 50
X§U3 N023 GRND LT1634-5 ;§pnba VCC)VEE
Q8 N008 N015 N019 0 NPN
Q9 N015 N019 N023 0 NPN
R9 N019 N023 10k
R10 N008 N015 10k
E1 VREF_5.1V GRND N023 GRND {5.1/5.0}
Q11 VREF_5.1V N025 CLK 0 NPN
R12 N026 N025 2k
M1 Q N022 GRND GRND CMOSN l={Lmin} w={Wn}
M2 Q N029 GRND GRND CMOSN l={Lmin} w={Wn}
M3 VREF_5.1V N022 P001 VREF_5.1V CMOSP l={Lmin} w={Wp}
M4 P001 N029 Q VREF_5.1V CMOSP l={Lmin} w={Wp}
M5 N029 Q GRND GRND CMOSN l={Lmin} w={Wn}
M6 N029 SET GRND GRND CMOSN l={Lmin} w={Wn}
M7 VREF_5.1V Q P002 VREF_5.1V CMOSP l={Lmin} w={Wp}
M8 P002 SET N029 VREF_5.1V CMOSP l={Lmin} w={Wp}
R13 N022 CLK 10m
R14 SET N048 10m
M9 N030 Q GRND GRND CMOSN l={Lmin} w={Wn}
M10 N030 RESET GRND GRND CMOSN l={Lmin} w={Wn}
M11 VREF_5.1V Q P003 VREF_5.1V CMOSP l={Lmin} w={Wp}
M12 P003 RESET N030 VREF_5.1V CMOSP l={Lmin} w={Wp}
M13 N031 N030 GRND GRND CMOSN l={Lmin} w={Wn}
M14 VREF_5.1V N030 N031 VREF_5.1V CMOSP l={Lmin} w={Wp}
A1 N028 0 N031 0 0 N024 N021 0 DFLOP Vlow=0.05, Vhigh=4.95, Td=10n, Trise=10n, Tfall=10n
A2 0 VREF_5.1V 0 N021 0 0 N028 0 XOR Vlow=0.05, Vhigh=4.95, Td=10n, Trise=10n, Tfall=10n
M15 PRE_GATE_DRV_A N021 GRND GRND CMOSN l={Lmin} w={Wn}
M16 PRE_GATE_DRV_A N031 GRND GRND CMOSN l={Lmin} w={Wn}
M17 VREF_5.1V N021 P004 VREF_5.1V CMOSP l={Lmin} w={Wp}
M18 P004 N031 PRE_GATE_DRV_A VREF_5.1V CMOSP l={Lmin} w={Wp}
M19 PRE_GATE_DRV_B N024 GRND GRND CMOSN l={Lmin} w={Wn}
M20 PRE_GATE_DRV_B N031 GRND GRND CMOSN l={Lmin} w={Wn}
M21 VREF_5.1V N024 P005 VREF_5.1V CMOSP l={Lmin} w={Wp}
M22 P005 N031 PRE_GATE_DRV_B VREF_5.1V CMOSP l={Lmin} w={Wp}
M23 N046 N042 GRND GRND CMOSN l={Lmin} w={Wn}
M24 N046 ILIM_CMPRTR GRND GRND CMOSN l={Lmin} w={Wn}
M25 VREF_5.1V N042 P006 VREF_5.1V CMOSP l={Lmin} w={Wp}
M26 P006 ILIM_CMPRTR N046 VREF_5.1V CMOSP l={Lmin} w={Wp}
M27 N048 N046 GRND GRND CMOSN l={Lmin} w={Wn}
M28 VREF_5.1V N046 N048 VREF_5.1V CMOSP l={Lmin} w={Wp}
R15 ILIM_CMPRTR GRND 100k
R16 RESET N022 10m
X§U6 N043 EA_OUT VREF_5.1V GRND N042 LTC6752 ;§pnba +In)-In)VCC)VEE)Q
Q12 VCC N041 N044 0 NPN
Q13 N041 N044 N047 0 NPN
R17 N044 N047 10k
R18 VCC N041 10k
E2 N043 N049 N047 GRND 1.0
X§U8 N047 GRND LT1634-1.25 ;§pnba VCC)VEE
E3 N049 GRND RAMP GRND 1.0
R19 RAMP GRND 100k
Q10 VCC N004 N011 0 NPN
Q14 N004 N011 N018 0 NPN
R11 N011 N018 10k
R23 VCC N004 10k
Q15 N018 N018 N039 0 NPN
X§U9 N039 GRND LT1634-1.25 ;§pnba VCC)VEE
Q16 CLK N018 N040 0 NPN
R24 N040 GRND {1.25/400u}
R20 PWR_GND GRND 10Meg
E4 REF_1V GRND N047 GRND {1.0/1.25}
E5 REF_1.4V GRND N047 GRND {1.4/1.25}
X§U10 ILIM_SD REF_1V VREF_5.1V GRND ILIM_CMPRTR LTC6752 ;§pnba +In)-In)VCC)VEE)Q
X§U11 ILIM_SD REF_1.4V VREF_5.1V GRND SHDN_CMPRTR LTC6752 ;§pnba +In)-In)VCC)VEE)Q
R1 ILIM_SD GRND 50k
D1 GRND VCC_UVLO_CMPRTR CDZV10B
Q17 VCC N006 N012 0 NPN
Q18 N006 N012 VCC_UVLO_CMPRTR 0 NPN
R21 N012 VCC_UVLO_CMPRTR 10k
R22 VCC N006 10k
X§U12 VCC UVLO_REF_9V VCC_UVLO_CMPRTR GRND REF5V1_EN_SW_CTL LTC6752 ;§pnba +In)-In)VCC)VEE)Q
Q19 VCC N007 N013 0 NPN
Q20 N007 N013 N016 0 NPN
R25 N013 N016 10k
R26 VCC N007 10k
X§U13 N016 GRND ADR5043 ;§pnba 1)2
E6 UVLO_REF_9V GRND N016 GRND 3.0
R27 N023 GRND 10Meg
M29 P007 VREF_GOOD GRND GRND CMOSN l={Lmin} w={Wn}
M30 OUTPUT_INH UVLO_OUT P007 GRND CMOSN l={Lmin} w={Wn}
M31 VREF_5.1V VREF_GOOD OUTPUT_INH VREF_5.1V CMOSP l={Lmin} w={Wp}
M32 VREF_5.1V UVLO_OUT OUTPUT_INH VREF_5.1V CMOSP l={Lmin} w={Wp}
X§U14 VREF_5.1V VREF_5V1_GOOD_THRES VCC_UVLO_CMPRTR GRND N045 LTC6752 ;§pnba +In)-In)VCC)VEE)Q
X§U15 N027 GRND ADR5043 ;§pnba 1)2
R28 VCC_UVLO_CMPRTR N027 5k
E7 VREF_5V1_GOOD_THRES GRND N027 GRND {4.0/3.0}
R31 N038 GRND 10k
R32 N010 N036 10k
Q21 N038 N036 N010 0 PNP
Q22 GRND N038 N036 0 PNP
Q23 N010 N010 N002 0 PNP
X§U16 VCC N002 ADR5043 ;§pnba 1)2
Q24 SS N010 N001 0 PNP
R33 VCC N001 {3/9u}
Q25 SS N032 GRND 0 NPN
R34 N032 GRND 100k
R35 SHDN_CMPRTR N032 5k
R36 OUTPUT_INH N032 5k
M33 OUTPUT_EN OUTPUT_INH GRND GRND CMOSN l={Lmin} w={Wn}
M34 VREF_5.1V OUTPUT_INH OUTPUT_EN VREF_5.1V CMOSP l={Lmin} w={Wp}
R29 EN_OUTA OUTPUT_EN 1k
R30 EN_OUTB OUTPUT_EN 1k
S1 N008 VCC REF5V1_EN_SW_CTL GRND SW
S2 N014 PRE_GATE_DRV_A EN_OUTA GRND SW
S3 N033 PRE_GATE_DRV_B EN_OUTB GRND SW
X§U4 N014 OUT_A VC PWR_GND OUT_A GATE_DRVR_OUTP_ALT ;§pnba In+)In-)V+)V-)OUT
X§U5 N033 OUT_B VC PWR_GND OUT_B GATE_DRVR_OUTP_ALT ;§pnba In+)In-)V+)V-)OUT
X§U7 NI INV VCC GRND EA_OUT EA ;§pnba In+)In-)V+)V-)OUT
R37 N045 VREF_GOOD 1k
R38 REF5V1_EN_SW_CTL UVLO_OUT 1k
.model D D
.lib standard.dio
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos
.MODEL CMOSP PMOS (                                LEVEL   = 49
+VERSION = 3.1            TNOM    = 27             TOX     = 4.1E-9
+XJ      = 1E-7           NCH     = 4.1589E17      VTH0    = -0.3906012
+K1      = 0.5341312      K2      = 0.0395326      K3      = 0
+K3B     = 7.4916211      W0      = 1E-6           NLX     = 1.194072E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 0.5060555      DVT1    = 0.2423835      DVT2    = 0.1
+U0      = 115.6894042    UA      = 1.573746E-9    UB      = 1.874308E-21
+UC      = -1E-10         VSAT    = 1.130982E5     A0      = 1.9976555
+AGS     = 0.4186945      B0      = 1.949178E-7    B1      = 6.422908E-7
+KETA    = 0.0166345      A1      = 0.4749146      A2      = 0.300003
+RDSW    = 198.321294     PRWG    = 0.5            PRWB    = -0.4986647
+WR      = 1              WINT    = 0              LINT    = 2.94454E-8
+XL      = 0              XW      = -1E-8          DWG     = -2.798724E-8
+DWB     = -4.83797E-10   VOFF    = -0.095236      NFACTOR = 2
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 1.035504E-3    ETAB    = -4.358398E-4
+DSUB    = 1.816555E-3    PCLM    = 1.3299898      PDIBLC1 = 1.766563E-3
+PDIBLC2 = 7.728395E-7    PDIBLCB = -1E-3          DROUT   = 1.011891E-3
+PSCBE1  = 4.872184E10    PSCBE2  = 5E-10          PVAG    = 0.0209921
+DELTA   = 0.01           RSH     = 7.7            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 6.35E-10       CGSO    = 6.35E-10       CGBO    = 1E-12
+CJ      = 1.144521E-3    PB      = 0.8468686      MJ      = 0.4099522
+CJSW    = 2.490749E-10   PBSW    = 0.8769118      MJSW    = 0.3478565
+CJSWG   = 4.22E-10       PBSWG   = 0.8769118      MJSWG   = 0.3478565
+CF      = 0              PVTH0   = 2.302018E-3    PRDSW   = 9.0575312
+PK2     = 1.821914E-3    WKETA   = 0.0222457      LKETA   = -1.495872E-3
+PU0     = -1.5580645     PUA     = -6.36889E-11   PUB     = 1E-21
+PVSAT   = 49.8420442     PETA0   = 2.827793E-5    PKETA   = -2.536564E-3
+ NOIMOD=2.0E+00                                NOIA=3.57456993317604E+18                       NOIB=2500
+ NOIC=2.61260020285845E-11     EF=1.1388                                                       EM=41000000 )
*
*
* flicker noise parameters above added manually from some other process
*
.param Lmin={1*180n}
.param Wn = 5*Lmin
.param Wp = 1.5*Wn
*  T58F SPICE BSIM3 VERSION 3.1 PARAMETERS
*
* SPICE 3f5 Level 8, Star-HSPICE Level 49, UTMOST Level 8
*
* DATE: Oct 31/05
* LOT: T58F                  WAF: 9005
* Temperature_parameters=Default
.MODEL CMOSN NMOS (                                LEVEL   = 49
+VERSION = 3.1            TNOM    = 27             TOX     = 4.1E-9
+XJ      = 1E-7           NCH     = 2.3549E17      VTH0    = 0.3662473
+K1      = 0.5864999      K2      = 1.127266E-3    K3      = 1E-3
+K3B     = 0.0294061      W0      = 1E-7           NLX     = 1.630684E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 1.2064649      DVT1    = 0.4215486      DVT2    = 0.0197749
+U0      = 273.8094484    UA      = -1.40499E-9    UB      = 2.408323E-18
+UC      = 6.504826E-11   VSAT    = 1.355009E5     A0      = 2
+AGS     = 0.4449958      B0      = 1.901075E-7    B1      = 4.99995E-6
+KETA    = -0.0164863     A1      = 3.868769E-4    A2      = 0.4640272
+RDSW    = 123.3376355    PRWG    = 0.5            PRWB    = -0.197728
+WR      = 1              WINT    = 0              LINT    = 1.690044E-8
+XL      = 0              XW      = -1E-8          DWG     = -4.728719E-9
+DWB     = -2.452411E-9   VOFF    = -0.0948017     NFACTOR = 2.1860065
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 2.230928E-3    ETAB    = 6.028975E-5
+DSUB    = 0.0145467      PCLM    = 1.3822069      PDIBLC1 = 0.1762787
+PDIBLC2 = 1.66653E-3     PDIBLCB = -0.1           DROUT   = 0.7694691
+PSCBE1  = 8.91287E9      PSCBE2  = 7.349607E-9    PVAG    = 1.685917E-3
+DELTA   = 0.01           RSH     = 6.7            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 8.23E-10       CGSO    = 8.23E-10       CGBO    = 1E-12
+CJ      = 9.466429E-4    PB      = 0.8            MJ      = 0.3820266
+CJSW    = 2.608154E-10   PBSW    = 0.8            MJSW    = 0.102322
+CJSWG   = 3.3E-10        PBSWG   = 0.8            MJSWG   = 0.102322
+CF      = 0              PVTH0   = -2.199373E-3   PRDSW   = -0.9368961
+PK2     = 1.593254E-3    WKETA   = -2.880976E-3   LKETA   = 7.165078E-3
+PU0     = 6.777519       PUA     = 5.505418E-12   PUB     = 8.84133E-25
+PVSAT   = 2.006286E3     PETA0   = 1.003159E-4    PKETA   = -6.759277E-3
+NOIMOD=2.0E+00                 NOIA=1.3182567385564E+19
+NOIB=144543.977074592 NOIC=-1.24515784572817E-12               EF=0.92 EM=41000000 )
* NOR GATE
* NOR GATE
* SR LATCH
* CLK GEN WITH\n400uA TAIL CURRENT
* OR GATE
* TOGGLE FLIP FLOP
* NOR GATE
* NOR GATE
* Use with opamp2 symbol
.subckt EA IN+ IN- V+ V- OUT
Q1 N004 IN- N010 0 NPN_EA
Q2 N006 IN+ N010 0 NPN_EA
Q3 N010 N007 N014 0 NPN_EA
Q4 V+ N002 N003 0 NPN_EA
Q5 N002 N003 N007 0 NPN_EA
R1 N003 N007 5k
R2 V+ N002 5k
X§U2 N012 V- LT1004-1.2 ;§pnba VOUT)GND
Q6 N007 N007 N012 0 NPN_EA
Q7 N001 N007 N013 0 NPN_EA
R3 N013 V- {Vref_EA/Ibias_EA}
R5 N014 V- {Vref_EA/Ibias_EA}
Q10 N001 N001 V+ 0 PNP_EA
Q11 N011 N011 V- 0 NPN_EA
Q12 N008 N011 V- 0 NPN_EA
Q13 N009 N008 V- 0 NPN_EA
R6 N004 N011 5k
R7 N006 N008 5k
Q14 N004 N001 V+ 0 PNP_EA
Q15 N006 N001 V+ 0 PNP_EA
Q16 N005 N005 N009 0 NPN_EA
Q17 N005 N001 V+ 0 PNP_EA
Q18 VREF_5.1V N005 OUT 0 NPN_EA
R8 OUT N009 200
R12 N009 V- 50k
C1 N009 N008 100p
R4 V- 0 10G
E1 VREF_5.1V V- N012 V- {5.1/{Vref_EA}}
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NPN_EA NPN(IS=1E-14 VAF=100 BF=200 IKF=0.3 XTB=1.5
+BR=3 CJC=3E-12 CJE=10E-12 TR=250E-12 TF=250E-12
+ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30 Icrating=800m mfg=NXP)
.model PNP_EA PNP(IS=1E-14 VAF=120 BF=250 IKF=0.3
+XTB=1.5 BR=3 CJC=3E-12 CJE=10E-12 TR=250E-12
+TF=250E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2
+Vceo=40 Icrating=600m mfg=NXP)
.param Vref_EA=1.2
.param Ibias_EA=1m
.lib LTC3.lib
.backanno
.end
* Output Driver Stage Model
* Use with opamp2 model
* IN- Terminal floating. Can be connected to OUT
.subckt GATE_DRVR_OUTP IN+ IN- V+ V- OUT
Q2 V+ N001 N002 0 NPN_DRVR
Q3 V+ N002 OUT 0 NPN_DRVR
D2 OUT N001 1N4148
E1 N004 V- N003 V- 1.0
R5 IN+ V- 10k
R6 OUT V- 10k
R4 V+ N001 50
Q5 N003 N007 V- 0 NPN_DRVR
R7 V+ N003 10k
E3 N007 V- IN+ V- 1.0
R9 N005 N004 50
Q1 OUT N006 V- 0 NPN_DRVR
Q4 N001 N005 N006 0 NPN_DRVR
Q6 N006 N008 P001 0 NPN_DRVR
R1 V+ N008 10k
R2 P001 V- 50
R3 V- 0 10G
R8 IN- V- 10G
.model D D
.lib standard.dio
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NPN_DRVR NPN(IS=1E-14 VAF=100 BF=200 IKF=0.3 XTB=1.5 BR=3 CJC=3E-12 CJE=10E-12 TR=100E-12
+TF=100E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30 Icrating=800m mfg=NXP)
.model PNP1 PNP(IS=1E-14 VAF=120 BF=250 IKF=0.3 XTB=1.5 BR=3 CJC=3E-12 CJE=10E-12 TR=100E-12
+TF=100E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=40 Icrating=600m mfg=NXP)
.backanno
.end
* OR GATE
* Output Driver Stage Model
* Use with opamp2 model
* IN- Terminal floating. Can be connected to OUT
.subckt GATE_DRVR_OUTP_ALT IN+ IN- V+ V- OUT
Q2 V+ N001 N002 0 NPN_DRVR_ALT
Q3 V+ N002 OUT 0 NPN_DRVR_ALT
D2 N001 N003 1N4148
E1 N005 V- N004 V- 1.0
R5 IN+ V- 10k
Q1 V- N007 OUT 0 PNP_DRVR_ALT
Q4 V- N006 N007 0 PNP_DRVR_ALT
D3 N003 N006 1N4148
R3 N006 V- 1k
R4 V+ N001 1k
Q5 N004 N008 V- 0 NPN_DRVR_ALT
R7 V+ N004 10k
E3 N008 V- IN+ V- 1.0
R9 N006 N005 50
R1 V- 0 10G
R2 IN- V- 10G
.model D D
.lib standard.dio
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NPN_DRVR_ALT NPN(IS=1E-14 VAF=100 BF=200 IKF=0.3 XTB=1.5 BR=3 CJC=3E-12 CJE=10E-12 TR=250E-12 TF=250E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30 Icrating=800m mfg=NXP)
.model PNP_DRVR_ALT PNP(IS=1E-14 VAF=120 BF=250 IKF=0.3 XTB=1.5 BR=3 CJC=3E-12 CJE=10E-12 TR=250E-12 TF=250E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=40 Icrating=600m mfg=NXP)
.backanno
.end
.model SW SW(Ron=1m, Roff=10G, Vt=1.0, Vh=-0.05)
* NAND GATE
* 9uA Soft-Start Current
* UVLO and 5.1V "Ref Good" Detect Circuit
.lib ADR5043.sub
.lib LTC3.lib
.lib LTC7.lib
.backanno
.end

